US09422267B2
To a solution of 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylic acid (300 mg, 0.842 mmol) in DMF (5 mL) was added methylamine hydrochloride (284 mg, 4.207 mmol), HATU (320 mg, 0.842 mmol), diisopropylethylamine (163 mg, 1.263 mmol). The reaction mixture was stirred at RT for 16 h. The progress of reaction was monitored by LCMS. The reaction mixture was diluted with water (20 mL) and extracted with EtOAc (3×30 mL). The organic layer was washed with water (8×40 mL) and dried over anhydrous sodium sulfate. Removal of solvent under vacuum gave a crude product which was purified by reverse HPLC to obtain pure 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-methylpyrrolidine-2-carboxamide (20 mg) as racemate. The enantiomers were separated by chiral HPLC to afford (R)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-methylpyrrolidine-2-carboxamide (5 mg). 1H NMR (400 MHz, CD3OD, freebase) δ (ppm): 1.30 (d, 6H), 1.95-2.25 (m, 6H), 2.68 (s, 3H), 2.74 (t, 2H), 2.78 (t, 2H), 2.93-3.03 (m, 1H), 3.59 (brs, 1H), 3.80 (brs, 1H), 4.54 (d, 1H), 6.40 (brs, 1H). The other enantiomer was made using the chiral (R) starting material.

reactant | 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylic acid | 0.842 mmol, 300 mg | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1C(CCC1)C(=O)O)CCC2 | C18H24N6O2
reactant | methylamine hydrochloride | 4.207 mmol, 284 mg | Cl.CN
reactant | HATU | 0.842 mmol, 320 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.263 mmol, 163 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-methylpyrrolidine-2-carboxamide | 20 mg | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1C(CCC1)C(=O)NC)CCC2 | C19H27N7O
